US04088652
A solution of 3-acetyl-1-(p-aminophenyl)-3-azabicyclo[3.1.0]hexane in aqueous acetic acid-sodium acetate is treated with acetic anhydride at ambient temperature. The reaction mixture is chilled and filtered to give 3-acetyl-1-(p-acetamidophenyl)-3-azabicyclo[3.1.0]hexane.

reactant | 3-acetyl-1-(p-aminophenyl)-3-azabicyclo[3.1.0]hexane | C(C)(=O)N1CC2(CC2C1)C1=CC=C(C=C1)N | C13H16N2O
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetic acid sodium acetate | C(C)(=O)O.C(C)(=O)[O-].[Na+]
product | 3-acetyl-1-(p-acetamidophenyl)-3-azabicyclo[3.1.0]hexane | C(C)(=O)N1CC2(CC2C1)C1=CC=C(C=C1)NC(C)=O | C15H18N2O2
